US05191071
Preparation of n-butyl 6-O-octanoyl-β-D-glucopyranoside
The title compound was prepared according to the method described in example 26 using n-butyl β-D-glucopyranoside (1.0 g, 4.2 mmol) in 2-butanone (50 ml) in a 25% yield after 24 hours: 1H NMR (400MHZ, CDCl3) δ: 0.90 (m, 6H); 1.29 (M, 8H); 1.37 (m, 2H); 1.61 (m, 4H); 2.35 (m, 2H); 3.35 (m, 2H); 3.50 (m, 3H); 3.85 (m, 1H); 4.27 (d, J=8 HZ, 1H); 4.28 (m, 1H); 4.38 (m, 1H).

reactant | n-butyl β-D-glucopyranoside | 4.2 mmol, 1.0 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CCCC | C10H20O6
reactant | 2-butanone | 50 ml | CC(CC)=O | C4H8O
product | n-butyl 6-O-octanoyl-β-D-glucopyranoside | 25% yield | C(CCCCCCC)(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](OCCCC)O1)O)O)O | C18H34O7
